US05616591
3. 1-(2-Cyanophenyl)-4-methyl-1H-indole-2-carboxylic acid, ethyl ester
A mixture of the title 2 compound (2.710 g, 13.334 mmol, 1 eq), 2-fluorobenzonitrile (6.460 g, 50.336 mmol, 4 eq), potassium carbonate (3.686 g, 26.668 mmol, 2 eq), 18-Crown-6 (881 mg, 3.334 mmol, 0.25 eq) and dimethylformamide (13.33 mL, 1M) was stirred at 150° C. for a total of 31 hours. At 14 hours, more 2-fluorobenzonitrile (2.232 g, 18.429 mmol, 1.38 eq) was added and at 17 hours, additional 18-Crown-6 (400 mg, 0.113 eq) was added. The mixture was cooled and diluted with ethyl acetate. After filtration, the filtrate was washed with pH=4 buffer and saturated sodium chloride, dried (magnesium sulfate) and concentrated. The remaining material was chromatographed on silica gel eluting with Hexane:ether (8:1) to give the title compound (2.026 g, 50%).

reactant | 2-fluorobenzonitrile | 50.336 mmol, 6.460 g, 4 eq | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | potassium carbonate | 26.668 mmol, 3.686 g, 2 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 18-Crown-6 | 3.334 mmol, 881 mg, 0.25 eq | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | dimethylformamide | 1M, 13.33 mL | CN(C=O)C | C3H7NO
reactant | 2-fluorobenzonitrile | 18.429 mmol, 2.232 g, 1.38 eq | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | 18-Crown-6 | 400 mg, 0.113 eq | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-Cyanophenyl)-4-methyl-1H-indole-2-carboxylic acid, ethyl ester | 2.026 g, 50% | C(#N)C1=C(C=CC=C1)N1C(=CC2=C(C=CC=C12)C)C(=O)OCC | C19H16N2O2
